US08119800B2
Sodium metal (1.28 kg, 55.65 mol) was dissolved in ethanol (25 L) under nitrogen atmosphere at 0° C. (bath temperature). Diethyl malonate (7.45 kg, 46.51 mol) was added to the solution and the mixture was heated to 80° C. 2-Bromopropane (8.00 kg, 65 mol) was added dropwise to the solution for 1 hour, and the solution was refluxed for 10 hours. The solution was cooled to room temperature. Sodium metal (1.22 kg, 53.04 mol) was dissolved into the solution under nitrogen atmosphere at 0° C. Urea (2.78 kg, 46.28 mol) in methanol (15 L) was added to the solution over 2 hours and the reaction mixture was refluxed for 20 hours. The reaction mixture was diluted with water (35 L) and conc. HCl (5 L), and cooled to room temperature. The precipitate was collected by filtration, washed with water (20 L), ether (15 L), n-hexane (20 L) and dried in vacuum at 40° C. for 10 hours to give 5-isopropylbarbituric acid as a white solid (3.42 kg, 20.10 mol, 43% yield).

reactant | Sodium | 55.65 mol, 1.28 kg | [Na] | Na
reactant | Diethyl malonate | 46.51 mol, 7.45 kg | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 2-Bromopropane | 65 mol, 8.00 kg | BrC(C)C | C3H7Br
reactant | Sodium | 53.04 mol, 1.22 kg | [Na] | Na
reactant | Urea | 46.28 mol, 2.78 kg | NC(=O)N | CH4N2O
solvent | ethanol | 25 L | C(C)O | C2H6O
solvent | methanol | 15 L | CO | CH4O
solvent | water | 35 L | O | H2O
solvent | HCl | 5 L | Cl | ClH
product | 5-isopropylbarbituric acid | 20.10 mol, 3.42 kg, 43% yield | C(C)(C)C1C(NC(NC1=O)=O)=O | C7H10N2O3
